US07153875B2
A solution of 3-(2-methoxyphenyl)-4,5-methylenedioxybenzaldehyde (0.850 g, 3.32 mmol), m-chloroperbenzoic acid (1.431 g, 8.29 mmol) in CH2Cl2 (25 mL) was heated to reflux overnight. The resulting orange mixture was evaporated, dissolved into MeOH (15 mL) and 2.5 M NaOH (6 mL) and stirred for 45 minutes. The dark mixture was diluted with ethyl acetate and acidified with 1.0 N HCl. The layers were separated and the organics washed successively with water, 0.5 M NaHCO3, water, brine and dried (MgSO4). The mixture was filtered, evaporated and the residue was purified on silica gel (hexane:ethyl acetate 4:1) to give 0.55 g of 3-(2-methoxyphenyl)-4,5-methylenedioxyphenol (68%) as a tan solid, 1H NMR (500 MHz; CDCl3): δ 3.82 (s, 3H); 5.91 (s, 2H); 6.40–6.45 (m, 2H); 6.99 (d, J=9.0 Hz, 1H); 7.02 (d, J=7.0 Hz, 1H); 7.40–7.30 (m, 2H).

reactant | 3-(2-methoxyphenyl)-4,5-methylenedioxybenzaldehyde | 3.32 mmol, 0.850 g | COC1=C(C=CC=C1)C=1C=C(C=O)C=C2C1OCO2 | C15H12O4
reactant | m-chloroperbenzoic acid | 8.29 mmol, 1.431 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-methoxyphenyl)-4,5-methylenedioxyphenol | 0.55 g, 68% | COC1=C(C=CC=C1)C=1C=C(C=C2C1OCO2)O | C14H12O4
